US04159344
1(m-trifluoroacetamidophenyl)-3(3',4'-dichlorophenyl) urea
Four and one-tenth grams of m-amino trifluoro acetanilide is dissolved in 100 ml of acetone and 3.8 g. of 3,4-dichlorophenyl isocyanate is added. The mixture is heated to reflux and crystallizes from acetone on cooling. Yield is 6.4 g., m.p. 221°-223° C.

reactant | m-amino trifluoro acetanilide | NC=1C=C(NC(C(F)(F)F)=O)C=CC1 | C8H7F3N2O
reactant | 3,4-dichlorophenyl isocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1(m-trifluoroacetamidophenyl)-3(3',4'-dichlorophenyl) urea | FC(C(=O)NC=1C=C(C=CC1)NC(=O)NC1=CC(=C(C=C1)Cl)Cl)(F)F | C15H10Cl2F3N3O2
